US06825208B2
To a solution of 4-hydroxy-3-methoxy-benzoic acid methyl ester (75 g, 410 mmol) and 2,4,6-collidine (75 g, 620 mmol) in dichloromethane (750 mL) was added trifluoromethanesulfonic anhydride (94 mL, 560 mmol)at −78° C. under nitrogen. After the addition, the reaction was warmed to room temperature, stirred for 4 h and quenched with saturated aqueous copper sulfate (500 mL). The phases were separated and the aqueous phase was extracted with dichloromethane (2×250 mL). The organic phases were combined, dried and concentrated under reduced pressure. The residue was purified by column chromatography (4:1 hexane/EtOAc) to yield 3-methoxy-4-trifluoromethane-sulfonyloxy-benzoic acid methyl ester (129 g, quantitative as an oil that crystallized upon standing.

reactant | 4-hydroxy-3-methoxy-benzoic acid methyl ester | 410 mmol, 75 g | COC(C1=CC(=C(C=C1)O)OC)=O | C9H10O4
reactant | 2,4,6-collidine | 620 mmol, 75 g | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | trifluoromethanesulfonic anhydride | 560 mmol, 94 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 750 mL | ClCCl | CH2Cl2
product | 3-methoxy-4-trifluoromethane-sulfonyloxy-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)OS(=O)(=O)C(F)(F)F)OC)=O | C10H9F3O6S
